US07049307B2
5-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole
A mixture of 5-Nitroindazole (1.00 g, 6.13 mmol) was dissolved in 20 mL of N,N-dimethylformamide and potassium carbonate (2.50 g, 18.1 mmol) was stirred for 30 minutes after which 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (1.56 g 9.17 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature. The mixture was filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4) and the filtrate concentrated in vacuo. The residue was purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-d6) ppm 1.64 (m, 4H), 2.48 (m, 4H), 2.99 (t, 2H, J=6.44), 4.62 (t, 2H, J=6.44), 7.78 (m, 1H), 8.00 (m, 1H), 8.83(m, 1H), 8.88 (m, 1H); MS (DCI/NH3) m/z 261 [M+H]+.

reactant | 5-Nitroindazole | 6.13 mmol, 1.00 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | potassium carbonate | 18.1 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 9.17 mmol, 1.56 g | Cl.ClCCN1CCCC1
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole | [N+](=O)([O-])C1=CC2=CN(N=C2C=C1)CCN1CCCC1 | C13H16N4O2
